US04594430
To a stirred solution of 2.66 g (66.5 mmoles) of sodium hydroxide in 15 ml of water at 20° was added 5.0 g (66.5 mmoles) of nitroethane. When all the nitroethane dissolved, the solution was cooled to 5°-7° in an ice-water bath and 5.4 g of 37% aqueous formaldehyde (66.5 mmoles) was then added. The cooling bath was removed and the mixture was stirred for 2 hours before the ice-water bath was replaced and 25 ml of ether was added. A solution of 18.3 g of sodium nitrite (0.265 mole) in 30 ml of water was then added followed by solutions of 15.8 g (66.3 mmoles) of sodium persulfate in 30 ml of water and 4.4 g (13.4 mmoles) of potassium ferricyanide in 15 ml of water. The reaction temperature rose from 14° to 35°. The mixture was then stirred at ambient temperature for 1 hour and phases were separated. The aqueous phase was extracted twice with ether and the combined ether extracts were washed with brine and dried. The product was distilled in a short path distillation apparatus to give 6.57 g (65% yield) of 2,2-dinitropropanol.

reactant | sodium hydroxide | 66.5 mmoles, 2.66 g | [OH-].[Na+]
reactant | nitroethane | 66.5 mmoles, 5.0 g | [N+](=O)([O-])CC | C2H5NO2
reactant | formaldehyde | 66.5 mmoles, 5.4 g | C=O | CH2O
reactant | sodium nitrite | 0.265 mole, 18.3 g | N(=O)[O-].[Na+]
reactant | sodium persulfate | 66.3 mmoles, 15.8 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | water | 15 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | water | 15 ml | O | H2O
catalyst | potassium ferricyanide | 13.4 mmoles, 4.4 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 2,2-dinitropropanol | 6.57 g, 65% yield | [N+](=O)([O-])C(CO)(C)[N+](=O)[O-] | C3H6N2O5
